US05227457
Anhydrous nickel(II) chloride (60 mg, 0.46 mmole), triphenylphosphine (800 mg, 3.05 mmole), sodium iodide (180 mg, 1.2 mmole), and activated zinc powder (1.2 g, 18 mmole) are placed into a 25 ml flask under an inert atmosphere along with 7 ml of anhydrous N-methylpyrrolidinone (NMP). This mixture is stirred at 50° C. for about 10 minutes, leading to a deep-red coloration. A solution of 3.4 g (11.6 mmole) of 2,5-dichlorobenzenesulfonylpiperidine, which is prepared by the reaction of 2,5-dichlorobenzenesulfonyl chloride with piperidine, in 8 ml of anhydrous NMP is then added by syringe. After stirring for about 60 hours, the resulting highly viscous solution is poured into 200 ml of 1 molar hydrochloric acid in ethanol to dissolve the excess zinc metal and to precipitate the polymer. This suspension is filtered and triturated with acetone to afford, after isolation and drying, solid polyparabenzenesulfonylpiperidine.

reactant | triphenylphosphine | 3.05 mmole, 800 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium iodide | 1.2 mmole, 180 mg | [I-].[Na+]
reactant | 2,5-dichlorobenzenesulfonyl chloride | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | 1 molar, 200 ml | Cl | ClH
solvent | NMP | 8 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethanol | C(C)O | C2H6O
catalyst | nickel(II) chloride | 0.46 mmole, 60 mg | [Ni](Cl)Cl
catalyst | zinc | 18 mmole, 1.2 g | [Zn] | Zn
solvent | N-methylpyrrolidinone | 7 ml | CN1C(CCC1)=O | C5H9NO
product | 2,5-dichlorobenzenesulfonylpiperidine | 11.6 mmole, 3.4 g | ClC1=C(C=C(C=C1)Cl)S(=O)(=O)N1CCCCC1 | C11H13Cl2NO2S
